US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-(2-fluoro-4-methoxyphenyl)-4-phenethylpiperazine (367 mg), and the resulting crude product was purified on TLC (developer, chloroform: methanol=17:1) to provide 3-fluoro-4-(4-phenethyl-piperazin-1-yl)phenol (178 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-(2-fluoro-4-methoxyphenyl)-4-phenethylpiperazine | 367 mg | FC1=C(C=CC(=C1)OC)N1CCN(CC1)CCC1=CC=CC=C1 | C19H23FN2O
product | 3-fluoro-4-(4-phenethyl-piperazin-1-yl)phenol | 178 mg | FC=1C=C(C=CC1N1CCN(CC1)CCC1=CC=CC=C1)O | C18H21FN2O
